US07414076B2
Preparation of 3-(N-methyl-N-tert-butylamino)-1-propanesulfonic acid (Compound EN)
To a solution of N-methyl-tert-butylamine (2.0 g, 22.9 mmol) in acetone (25 mL) was slowly added 1,3-propane sultone (2.72 g, 21.8 mmol). The mixture was stirred at reflux for 3 h. The reaction mixture was cooled to room temperature. The solid material was collected by filtration, washed with acetone (2×25 mL). The crude product was suspended in 80% Acetone/EtOH. The suspension was stirred at reflux for 30 seconds. The solid product was collected by filtration, and dried in a vacuum oven (50° C.), to afford compound EN (2.9 g, 65%). 1H NMR (DMSO, 500 MHz) δ ppm 9.40 (s (broad), 1H), 3.45 (m, 1H), 2.85 (m, 1H), 2.59 (m, 5H), 1.99 (m, 2H), 1.28 (s, 9H). 13C NMR (DMSO, 125 MHz) δ ppm 63.23, 51.12, 49.73, 34.79, 25.50, 21.72. ES-MS 208 (M−1).

reactant | N-methyl-tert-butylamine | 22.9 mmol, 2.0 g | CNC(C)(C)C | C5H13N
reactant | 1,3-propane sultone | 21.8 mmol, 2.72 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-(N-methyl-N-tert-butylamino)-1-propanesulfonic acid | CN(C(C)(C)C)CCCS(=O)(=O)O | C8H19NO3S
